US07615568B2
B. Methyl 2-hydroxy-4-(methylthio)benzoate
The 2-hydroxy-4-(methylthio)benzoic acid (836 mg, 4.54 mmol) was dissolved in MeOH (45 mL). Thionyl chloride (0.35 mL, 4.80 mmol) was added and the solution was heated to 65° C. and left overnight. TLC indicated that there was still starting material present; so more thionyl chloride (1.0 mL, 13.7 mmol) was added. After about 1.5 hour, TLC indicated formation of baseline material; so the reaction was concentrated in vacuo. The crude residue was purified using flash column chromatography (100% CH2Cl2) to give the desired compound as an off-white solid (567 mg, 2.86 mmol, 63%).

reactant | 2-hydroxy-4-(methylthio)benzoic acid | 4.54 mmol, 836 mg | OC1=C(C(=O)O)C=CC(=C1)SC | C8H8O3S
reactant | Thionyl chloride | 4.80 mmol, 0.35 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 13.7 mmol, 1.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 45 mL | CO | CH4O
product | Methyl 2-hydroxy-4-(methylthio)benzoate | 2.86 mmol, 567 mg, 63% | OC1=C(C(=O)OC)C=CC(=C1)SC | C9H10O3S
